US08048897B2
(1) Synthesis of (2-Benzyloxyphenyl)-(4-methylsulfanyl-phenyl)methanol
In a nitrogen stream, a solution of 4-methylsulfanyl-phenylmagnesium bromide in THF (0.5 M, 35 mL) was added dropwise to a solution of 2-benzyloxybenzaldehyde (2.60 g, 12.2 mmol) in THF (24 mL) at 0° C. and the mixture was stirred at room temperature for two hours, and then a saturated ammonium chloride aqueous solution was added thereto under cooling with ice and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:4)] to obtain the title compound (3.91 g, 95%).

reactant | 4-methylsulfanyl-phenylmagnesium bromide | CSC1=CC=C(C=C1)[Mg]Br
reactant | 2-benzyloxybenzaldehyde | 12.2 mmol, 2.60 g | C(C1=CC=CC=C1)OC1=C(C=O)C=CC=C1 | C14H12O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 0.5 M, 35 mL | C1CCOC1 | C4H8O
solvent | THF | 24 mL | C1CCOC1 | C4H8O
product | (2-Benzyloxyphenyl)-(4-methylsulfanyl-phenyl)methanol | 3.91 g, 95% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(O)C1=CC=C(C=C1)SC | C21H20O2S
